US09023843B2
[3-(4-{7-[2-(3-Fluoro-phenyl)-ethyl]-2-oxo-2,9-dihydro-10-oxa-1,3,9-triaza-anthracen-3-yl}-piperidin-1-yl)-propyl]-carbamic acid tert-butyl ester
A solution of {3-[4-(3-{2-dimethylaminomethylene-6-[2-(3-fluoro-phenyl)-ethyl]-2H-benzo[1,4]oxazin-3-yl}-ureido)-piperidin-1-yl]-propyl}-carbamic acid tert-butyl ester (310 mg, 0.510 mmol, 1 equiv) in acetic acid (15 mL) was placed in a microwave reactor vessel. The reaction was placed under an argon atmosphere then heated to 100° C. in a microwave reactor for 90 min. LCMS analysis indicated the desired product was obtained, but partial loss of Boc had occurred. The acetic acid solution was concentrated then the residue was dissolved in tetrahydrofuran (25 mL) and treated with potassium carbonate (600 mg, 4.34 mmol, 8.5 equiv) and di-tert-butyl dicarbonate (190 mg, 0.872 mmol, 1.7 equiv). After stirring for 30 min at 23° C. the reaction mixture was partitioned between ethyl acetate and water (60 mL each). The organic layer was separated and washed with saturated brine solution (50 mL) then dried (MgSO4), filtered and concentrated. The residue was dissolved/suspended in 1:1 ethyl acetate:heptane (10 mL, hot). After cooling the solid was collected via filtration. The solid was adsorbed onto silica gel (5 g) then purified using an Isco CombiFlash automated chromatography system. The product was eluted through and 40 g silica gel cartridge with 2 M ammonia in methanol in dichloromethane (0-8% 2 M ammonia in methanol linear gradient over 24 column volumes at a flow rate of 40 mL/min) to give 94 mg (0.167 mmol, 33%) of the title compound as a pale yellow solid.

reactant | {3-[4-(3-{2-dimethylaminomethylene-6-[2-(3-fluoro-phenyl)-ethyl]-2H-benzo[1,4]oxazin-3-yl}-ureido)-piperidin-1-yl]-propyl}-carbamic acid tert-butyl ester | 0.510 mmol, 310 mg, 1 equiv | C(C)(C)(C)OC(NCCCN1CCC(CC1)NC(=O)NC=1C(OC2=C(N1)C=C(C=C2)CCC2=CC(=CC=C2)F)=CN(C)C)=O | C33H45FN6O4
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | [3-(4-{7-[2-(3-Fluoro-phenyl)-ethyl]-2-oxo-2,9-dihydro-10-oxa-1,3,9-triaza-anthracen-3-yl}-piperidin-1-yl)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCN1CCC(CC1)N1C(N=C2NC3=CC(=CC=C3OC2=C1)CCC1=CC(=CC=C1)F)=O)=O | C31H38FN5O4
